US07910612B2
To a solution of 2.0 g commercially available 4-(4-Trifluoromethyl-phenoxy)-benzoic acid in 180 ml tetrahydrofuran 269 mg lithium aluminum hydride were added at −20° C. portionwise. The reaction temperature was maintained between −5° C. and −20° C. After completion of the addition the cooling bath was removed and the reaction mixture was allowed to warm to room temperature. The reaction mixture was stirred at room temperature for two hours. Then the reaction mixture was cooled again to −40° C. and 3 ml water were added. The cooling bath was removed and the reaction mixture was allowed to warm to room temperature. The reaction mixture was stirred at room temperature for four hours. Then the reaction mixture was dried over MgSO4. The solvent was removed in vacuo and the residue purified by flash chromatography on silica gel with the eluents n-heptane:ethyl acetate=9:1=>2:1 to obtain 600 mg [4-(4-Trifluoromethyl-phenoxy)-phenyl]-methanol.

reactant | 4-(4-Trifluoromethyl-phenoxy)-benzoic acid | FC(C1=CC=C(OC2=CC=C(C(=O)O)C=C2)C=C1)(F)F | C14H9F3O3
solvent | tetrahydrofuran | 180 ml, 269 mg | O1CCCC1 | C4H8O
product | [4-(4-Trifluoromethyl-phenoxy)-phenyl]-methanol | 600 mg | FC(C1=CC=C(OC2=CC=C(C=C2)CO)C=C1)(F)F | C14H11F3O2
